US06982348B2
To a solution of ethyl 3-(3-furanyl)-3-oxopropionate (20 g, 110 mmol) in 1,2-dimethoxyethane (100 ml) was added sodium hydride (60% in oil, 4.4 g, 110 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (26.2 g, 110 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred at room temperature for 3 hrs. The reaction solution was poured into water (300 ml) and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether-hexane to give ethyl 3-(3-furanyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (28.8 g, 77%).

reactant | ethyl 3-(3-furanyl)-3-oxopropionate | 110 mmol, 20 g | O1C=C(C=C1)C(CC(=O)OCC)=O | C9H10O4
reactant | sodium hydride | 110 mmol, 4.4 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 110 mmol, 26.2 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 300 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(3-furanyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 28.8 g, 77% | O1C=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O4
